US05420309
2-(2,2,2-Trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole
11 g of pyrocatechol were dissolved in 200 ml of dimethylformamide, and 18 g of 45% by weight aqueous sodium hydroxide solution were added. 20 g of 2-chloro-1,1,1,4,4,4-hexafluorobut-2-ene were added dropwise to the mixture at 75° C. The reaction mixture was subsequently stirred for 30 minutes at 75° C. and then poured into 500 ml of ice-water and extracted with diethyl ether. The organic phase was washed with water, dried over magnesium sulphate and concentrated. The product was finally distilled under high vacuum. The yield was 15 g (=56%) and the boiling point was 60° C. at 10 mbar. The NMR spectra showed the following characteristic absorptions: 19F NMR: -59.0 and -84.6 ppm. 1H NMR: 3.02 ppm.

reactant | pyrocatechol | 11 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-chloro-1,1,1,4,4,4-hexafluorobut-2-ene | 20 g | ClC(C(F)(F)F)=CC(F)(F)F | C4HClF6
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(2,2,2-Trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole | FC(CC1(OC2=C(O1)C=CC=C2)C(F)(F)F)(F)F | C10H6F6O2
